US06476030B1
b) 7-(2-Fluorophenyl)-3-iodo-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine
To a stirred solution of 7-(2-fluorophenyl)-3-iodopyrazolo[1,5-d][1,2,4]triazin-2-ol (0.4098 g, 1.15 mmol) in anhydrous DMF (16 ml) under nitrogen was added cesium carbonate (1.5009 g, 4.61 mmol), then solid 3-chloromethyl-2-methyl-2H-[1,2,4]triazole hydrochloride (0.2328 g, 1.39 mmol). The mixture was stirred at room temperature for 25 h, then partitioned between water (75 ml) and ethyl acetate (75 ml). The aqueous layer was further extracted with ethyl acetate (2×75 ml), and the combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 0-5% MeOH/EtOAc) to give 0.4212 g (81%) of the title compound as a white solid: mp=218-219° C. (CH2Cl2-EtOAc); 1H NMR (360 MHz, CDCl3) δ 3.88 (3H, s), 5.52 (2H, s), 7.28 (1H, m), 7.39 (1H, td, J=7.6 and 1.0 Hz), 7.65 (1H, m), 7.76 (1H, m), 7.87 (1H, s), 9.14 (1H;, s); MS (ES+) m/e 452 [MH]+; Anal. Found C, 39.66; H, 2.16; N, 21.34%. C15H11FIN7O requires C, 39.93; H, 2.46; N, 21.73%.

reactant | 7-(2-fluorophenyl)-3-iodopyrazolo[1,5-d][1,2,4]triazin-2-ol | 1.15 mmol, 0.4098 g | FC1=C(C=CC=C1)C1=NN=CC=2N1N=C(C2I)O | C11H6FIN4O
reactant | cesium carbonate | 4.61 mmol, 1.5009 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-chloromethyl-2-methyl-2H-[1,2,4]triazole hydrochloride | 1.39 mmol, 0.2328 g | Cl.ClCC=1N(N=CN1)C
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
product | 7-(2-Fluorophenyl)-3-iodo-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine | 0.4212 g, 81% | FC1=C(C=CC=C1)C1=NN=CC=2N1N=C(C2I)OCC=2N(N=CN2)C | C15H11FIN7O
